US07642264B2
A stirred mixture of 4-(3-methyl-4-trifluoromethyl-phenyl)-2-(4-tributylstannanyl-imidazol-1-yl)-6-trifluoromethyl-pyrimidine (Example G.7) (0.33 g, 0.5 mmol), commercially available 5-bromothiophene-2-N-tert-butylsulfonamide (0.16 g, 0.55 mmol), tetrakis(triphenylphosphine)palladium (0.035 g, 0.03 mmol) in toluene (6 mL) was heated under reflux conditions for 15 h, heptane (10 mL) was added and the mixture was stirred at RT for 1 h. The precipitate was collected by filtration and dried to yield 5-{1-[4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid tert-butyl amide (0.24 g) as a light yellow solid.

reactant | 4-(3-methyl-4-trifluoromethyl-phenyl)-2-(4-tributylstannanyl-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.33 g | CC=1C=C(C=CC1C(F)(F)F)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 5-bromothiophene-2-N-tert-butylsulfonamide | 0.55 mmol, 0.16 g | CC(C)(C)NS(=O)(=O)C1=CC=C(S1)Br | C8H12BrNO2S2
reactant | heptane | 10 mL | CCCCCCC | C7H16
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 0.035 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{1-[4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid tert-butyl amide | 0.24 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C(F)(F)F | C24H21F6N5O2S2
